US06307058B1
The addition of 2-ethylhexanol to N-carbamylmaleimide under the conditions of Example C afforded a 95% yield of 2-ethylhexyl maleurate. M.P.: 73°-6° C.; 1H NMR (CDCl3): δ10.6 (br s, 1H), 8.2 (br s, 1H), 6.3 (m, 2H), 5.8 (br s, 1H), 4.2 (m, 2H), 1.6 (m, 1H), 1.3 (m, 8H), 0.9 (t, 6H); HPLC (40% CH3CN/H2O, C8): Rt=14.2 minutes.

reactant | 2-ethylhexanol | C(C)C(CO)CCCC | C8H18O
reactant | N-carbamylmaleimide | C(N)(=O)N1C(C=CC1=O)=O | C5H4N2O3
product | 2-ethylhexyl maleurate | 95% yield | C(\C=C/C(NC(N)=O)=O)(=O)OCC(CCCC)CC | C13H22N2O4
